US08461189B2
pyridin-3-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate (1.5 g, 2.71 mmol) was taken up in EtOH (10.84 mL) at 0° C., evacuated and backfilled with N2. Pd/C (0.288 g, 0.27 mmol) was added and the reaction was again purged and backfilled with N2. Formic acid (2 mL, 53 mmol) was added and the reaction was stirred at RT and monitored by LC/MS. Reaction was complete in 2 h. The reaction was filtered through Celite and evaporated. The residue was taken up in DCM and washed with satd NaHCO3 solution (2×50 mL). The combined organic fractions were dried over Na2SO4, filtered and evaporated in vacuo to provide tert-butyl(2-{[4-(aminomethyl)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate. MS: cal'd 419 (MH+), exp 419 (MH+).

reactant | pyridin-3-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate | 2.71 mmol, 1.5 g | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C31H31N5O5
reactant | Formic acid | 53 mmol, 2 mL | C(=O)O | CH2O2
solvent | EtOH | 10.84 mL | CCO | C2H6O
catalyst | Pd/C | 0.27 mmol, 0.288 g | [Pd] | Pd
product | tert-butyl(2-{[4-(aminomethyl)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate | C(C)(C)(C)OC(NC=1C(=NC(=CC1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)CN)=O)=O | C24H26N4O3
